US08309551B2
Ethyl{[(2-fluorophenyl)acetyl]amino}(pyridin-2-yl)acetate
2.50 g (12.1 mmol) of ethyl amino(pyridin-2-yl)acetate [G. van Zyl et al., J. Org. Chem. 1961, 26, 3373] are introduced into 20 ml of dichloromethane and, after addition of 4.9 ml (60.3 mmol) of pyridine, cooled to 0° C. A solution of 1.86 g (12.1 mmol) of (2-fluorophenyl)acetyl chloride is then slowly added, and the mixture is stirred at 0° C. for 30 min and then at RT for 2 h. It is diluted with ethyl acetate, washed with sodium bicarbonate solution and dried over sodium sulfate. The crude product is purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:1). 2.9 g (76% of theory) of the desired product are obtained.

reactant | ethyl amino(pyridin-2-yl)acetate | 12.1 mmol, 2.50 g | NC(C(=O)OCC)C1=NC=CC=C1 | C9H12N2O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | pyridine | 60.3 mmol, 4.9 ml | N1=CC=CC=C1 | C5H5N
reactant | (2-fluorophenyl)acetyl chloride | 12.1 mmol, 1.86 g | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl{[(2-fluorophenyl)acetyl]amino}(pyridin-2-yl)acetate | C(C)OC(C(C1=NC=CC=C1)NC(CC1=C(C=CC=C1)F)=O)=O | C17H17FN2O3
